US07943630B2
9-Methyl-3,9-diaza-spiro[5.5]undecane-3-carboxylic acid tert-butyl ester (435 mg, 1.62 mmol) was dissolved in dichloromethane (11 mL) and cooled on ice. Trifluoroacetic acid (4 mL) in dichloromethane (5 mL) was added and the reaction mixture was stirred at room temperature for 2 h. Evaporation to dryness, co-evaporation with toluene, ethyl acetate and diethyl ether gave a foam which was dissolved in dichloromethane, and sodium hydroxide (2 N) was added. The aqueous phase was extracted five times with dichloromethane. The combined organic phase was washed with brine, dried (sodium sulfate), filtered and evaporated to give 214 mg (78%) of 3-methyl-3,9-diaza-spiro[5.5]undecane.

reactant | 9-Methyl-3,9-diaza-spiro[5.5]undecane-3-carboxylic acid tert-butyl ester | 1.62 mmol, 435 mg | C(C)(C)(C)OC(=O)N1CCC2(CC1)CCN(CC2)C | C15H28N2O2
reactant | Trifluoroacetic acid | 4 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium hydroxide | 2 N | [OH-].[Na+]
solvent | dichloromethane | 11 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 3-methyl-3,9-diaza-spiro[5.5]undecane | 214 mg, 78% | CN1CCC2(CC1)CCNCC2 | C10H20N2
